US05580896
(±)-α-amino-α-methyl-N-(2-phenylethyl)-1H-indole-3-propanamide
(±)-9H-Fluoren-9-ylmethyl [1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-2-[(2-phenylethyl)amino]ethyl]carbamate (10 g, 18.4 mmol) was dissolved in a 20% piperidine in DMF solution (50 mL) and stirred for 12 hours at room temperature. The solvent was removed in vacuo and chromatographed over silica gel using CH2Cl2 then 5% MeOH: 95% CH2Cl2 as eluants. The title compound was crystallized from ethyl acetate (4.73 g, 80%),mp 106°-110° C. (EtOAc); IR (film) 1646 cm-1 ; NMR (CDCl3) δ1.39 (3H, s), 2.56-2.74 (2H, m), 2.82 (1H, d, J 14 Hz), 3.28-3.40 (1H, m), 3.48 (1H, d, J 14 Hz), 3.44-3.53 (1H, m), 7.1-7.7 (11H, m), 8.3 (1H, s); Anal. (C20H23N3O) C, H, N.

reactant | (±)-9H-Fluoren-9-ylmethyl [1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-2-[(2-phenylethyl)amino]ethyl]carbamate | 18.4 mmol, 10 g | N1C=C(C2=CC=CC=C12)CC(C(NCCC1=CC=CC=C1)=O)(C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C35H33N3O3
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (±)-α-amino-α-methyl-N-(2-phenylethyl)-1H-indole-3-propanamide | NC(C(=O)NCCC1=CC=CC=C1)(CC1=CNC2=CC=CC=C12)C | C20H23N3O
